US04994535
1,2-Dibromoethylene was reacted with dicyclopentadiene at 190° C. in the same manner as Examples 1-7 to produce 5,6-dibromonorbornene (called "DBN" hereinafter).

reactant | 1,2-Dibromoethylene | BrC=CBr | C2H2Br2
reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
product | 5,6-dibromonorbornene | BrC1C2C=CC(C1Br)C2 | C7H8Br2
